US06300352B1
b) (1S,2R)-4′-(2-Hydroxy-1-methyl-4-pyridin-3-yl-butoxy)-6-methylbiphenyl-3-carboxylic acid methylamide
Prepared according to the method described in Example 12b) from (1S,2R)-4-[2-hydroxy-1-methyl-4-pyridin-3-ylbutoxy]benzeneboronic acid (0.20 g, Example 33 (0.290 g), 3-bromo-4-methylbenzoic acid, methyl amide (0.30 g), 2M aqueous sodium carbonate (0.66 ml) and tetrakis(triphenylphosphine)palladium(0) (0.038 g) in ethanol (3 ml). The reaction mixture was heated at 90° C. for 4 hours. After cooling, the solution was concentrated under reduced pressure, taken up in ethanol and concentrated again (twice). The residue was triturated with acetone and then filtered through silica gel. The filtrate was concentrated under reduced pressure, dissolved in dichloromethane, filtered and purified by normal-phase HPLC eluting with a gradient of 0-25% ethanol in dichloromethane to give an oil, which was further purified by column chromatography over silica gel eluting with ethyl acetate:ethanol (9:1) to give the title compound as a foam(0.20 g).

reactant | (1S,2R)-4-[2-hydroxy-1-methyl-4-pyridin-3-ylbutoxy]benzeneboronic acid | O[C@@H]([C@@H](OC1=CC=C(C=C1)B(O)O)C)CCC=1C=NC=CC1 | C16H20BNO4
reactant | 3-bromo-4-methylbenzoic acid, methyl amide | 0.30 g | CNC(C1=CC(=C(C=C1)C)Br)=O | C9H10BrNO
reactant | sodium carbonate | 2M, 0.66 ml | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.038 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (1S,2R)-4′-(2-Hydroxy-1-methyl-4-pyridin-3-yl-butoxy)-6-methylbiphenyl-3-carboxylic acid methylamide | 0.20 g | CNC(=O)C=1C=C(C(=CC1)C)C1=CC=C(C=C1)O[C@H]([C@@H](CCC=1C=NC=CC1)O)C | C25H28N2O3
